US04329347
6-[3-(2-Pyridyl-mercapto)-propoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(3-bromopropoxy)-3,4-dihydro-carbostyril and 2-mercapto-pyridine.

reactant | 6-(3-bromopropoxy)-3,4-dihydro-carbostyril | BrCCCOC=1C=C2CCC(NC2=CC1)=O | C12H14BrNO2
reactant | 2-mercapto-pyridine | SC1=NC=CC=C1 | C5H5NS
product | 6-[3-(2-Pyridyl-mercapto)-propoxy]-3,4-dihydro-carbostyril | N1=C(C=CC=C1)SCCCOC=1C=C2CCC(NC2=CC1)=O | C17H18N2O2S
